US05872115
Step 3): To a solution of 2-amino-5-diethylamino-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide (593 mg, 1.259 mmol) in CHCl3 (20 ml) was added n-butylisocyanate (374 mg, 3.779 mmol). The solution was refluxed overnight and evaporated. The residue was purified by column chromatography on silica gel to give 5-diethylamino-2-(N'-n-butylureido)-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide, 366 mg (51%): mp 158°-160° C.;

reactant | 2-amino-5-diethylamino-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide | 1.259 mmol, 593 mg | NC1=C(C(=O)NCC2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C=C1)N(CC)CC | C30H38N4O
reactant | n-butylisocyanate | 3.779 mmol, 374 mg | C(CCC)N=C=O | C5H9NO
solvent | CHCl3 | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-diethylamino-2-(N'-n-butylureido)-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide | C(C)N(C=1C=CC(=C(C(=O)NCC2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C1)NC(=O)NCCCC)CC | C35H47N5O2
